US07612114B2
(6-Bromopyridin-3-yl)acetaldehyde
To a suspension of (methoxymethyl)triphenylphosphonium chloride (4.65 g) in tetrahydrofuran (20 ml) was added dropwise potassium tert-butoxide (1.0 M solution in tetrahydrofuran) (14.6 ml) on an ice bath under a nitrogen atmosphere, the solution was stirred for 20 minutes, then a solution of 6-bromopyridine-3-carbaldehyde (2.1 g) in tetrahydrofuran (16 ml) was added dropwise thereto followed by stirring overnight at room temperature. A saturated aqueous solution of ammonium chloride was added thereto followed by stirring, the solution was extracted with ethyl acetate, then sequentially washed with water and brine, dried over anhydrous magnesium sulfate, and then the solvent was evaporated in vacuo. Obtained by purifying the residue by NH silica gel column chromatography (hexane-ethyl acetate system), 2-bromo-5-(2-methoxyvinyl)pyridine (2.2 g) was stirred in acetone (20 ml), water (10 m) and concentrated sulfuric acid (1 ml) were sequentially added thereto, the solution was stirred for 1.5 hours at 80° C., and then neutralized with a saturated aqueous solution of sodium bicarbonate. The solution was extracted with ethyl acetate, then sequentially washed with water and brine, dried over anhydrous magnesium sulfate, and then the solvent was evaporated in vacuo to provide the title compound (1.5 g).

reactant | (methoxymethyl)triphenylphosphonium chloride | 4.65 g | [Cl-].COC[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | potassium tert-butoxide | 1.0 M, 14.6 ml | CC(C)([O-])C.[K+]
reactant | 6-bromopyridine-3-carbaldehyde | 2.1 g | BrC1=CC=C(C=N1)C=O | C6H4BrNO
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 16 ml | O1CCCC1 | C4H8O
product | (6-Bromopyridin-3-yl)acetaldehyde | 1.5 g | BrC1=CC=C(C=N1)CC=O | C7H6BrNO
